US07638539B2
Intermediate:[5-Methyl-2-(4-trifluoromethyl-phenyl)-thiazol-4-yl]-acetic acid ethyl ester
To a solution of 4-trifluoromethyl-benzene-thioamide (1.845 g, 9 mmol) in ethanol (15 mL, 200 proof) add ethyl-4-bromo-3-oxo-pentanoate (2.07 g, 9 mmol). Seal this solution warm the solution to 170° C. in a Personal Chemistry™ microwave oven and stir at this temperature for 20 min. Cool the resulting solution to room temperature, concentrate under reduced pressure and purify the residue by flash chromatography (elute with 30% ethyl acetate/10% dichloromethane in heptane) and obtain the title compound as a white solid (1.4 g). MS (ESI) m/z 330 (M+H); H1 NMR (CDCl3) δ1.87 (bs, 1H), 2.49 (s, 3H), 4.86 (s, 2H), 7.67 (d, J=8 Hz, 2H), 8.02 (d, J=8 Hz, 2H).

reactant | 4-trifluoromethyl-benzene-thioamide | 9 mmol, 1.845 g | FC(C1=CC=C(C=C1)C(N)=S)(F)F | C8H6F3NS
reactant | ethyl-4-bromo-3-oxo-pentanoate | 9 mmol, 2.07 g | C(C)OC(CC(C(C)Br)=O)=O | C7H11BrO3
solvent | ethanol | 15 mL | C(C)O | C2H6O
product | [5-Methyl-2-(4-trifluoromethyl-phenyl)-thiazol-4-yl]-acetic acid ethyl ester | 1.4 g | C(C)OC(CC=1N=C(SC1C)C1=CC=C(C=C1)C(F)(F)F)=O | C15H14F3NO2S
